US05929085
(a) 10-Methyl-2,3-dihydro-1H-pyrrolo[2,1-c][1,4]benzodiazapine-5,11(10H,11aH)-dione
To (S)-(+)-2,3-dihydro-1H-pyrrolo[2,1-c][1,4]benzodiazapine-5,11(10H,11aH)-dione (9.9 g, 45.8 mmol) in DMF (150 ml) at 0° C. was added NaH (2.0 g, 50.4 mmol). The mixture was warmed to room temperature and stirred for 1 h before methyl iodide (8.56 ml, 137 mmol) was added dropwise. After stirring for an additional 1 h, the mixture was dumped into water (1 l) and extracted with ethyl acetate (3×100 ml). The combined extracts were washed with water, dried over magnesium sulfate, filtered, and concentrated to a solid which was recrystallized from ethyl acetate-hexane (5.7 g, 54%), m.p. 118-120° C.

reactant | (S)-(+)-2,3-dihydro-1H-pyrrolo[2,1-c][1,4]benzodiazapine-5,11(10H,11aH)-dione | 45.8 mmol, 9.9 g | C1CCN2[C@@H]1C(NC1=C(C2=O)C=CC=C1)=O | C12H12N2O2
reactant | NaH | 50.4 mmol, 2.0 g | [H-].[Na+]
reactant | methyl iodide | 137 mmol, 8.56 ml | CI | CH3I
reactant | water | 1 l | O | H2O
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 10-Methyl-2,3-dihydro-1H-pyrrolo[2,1-c][1,4]benzodiazapine-5,11(10H,11aH)-dione | CN1C(C2N(C(C3=C1C=CC=C3)=O)CCC2)=O | C13H14N2O2
